US07208178B2
A 22 L, five neck round bottom flask, was equipped with an overhead stirrer, reflux condenser, thermocouple temperature read out, and heating mantle. The following reaction was run under a dry nitrogen atmosphere. Reagent acetone (13000 mL) and 4-[(4-chloro-2-hydroxy-benzoyl)amino]butanoic acid (500.0 g, 1.94 mol) were charged to the reactor and stirring was started. The reaction slurry was heated to 50° C. until a hazy brown solution was obtained. The warm solution was pumped through a warm pressure filter dressed with Whatman #1 paper into a clean 22 L reactor. The clear yellow filtrate was heated to 50° C. while stirring. Sodium hydroxide solution (50% aqueous; 155 g, 1.94 mol) was charged to the reactor while maintaining vigorous agitation. After the base addition was complete, the reactor was heated to reflux (60° C.) for 2.5 hours and then allowed to cool slowly to ambient temperature. The product was isolated by vacuum filtration through a sintered glass funnel and dried in a vacuum oven at 50° C. for 24 hours to give 527.3 g of sodium 4-[(4-chloro-2-hydroxybenzoyl)amino]butanoate as an off-white solid. Using acetone in the final stage of the synthesis always resulted in the production of the anhydrous crystalline form. The yield was 97.2%.

reactant | 4-[(4-chloro-2-hydroxy-benzoyl)amino]butanoic acid | 1.94 mol, 500.0 g | ClC1=CC(=C(C(=O)NCCCC(=O)O)C=C1)O | C11H12ClNO4
reactant | Sodium hydroxide | 1.94 mol, 155 g | [OH-].[Na+]
solvent | acetone | 13000 mL | CC(=O)C | C3H6O
product | sodium 4-[(4-chloro-2-hydroxybenzoyl)amino]butanoate | 527.3 g, yield was 97.2% | ClC1=CC(=C(C(=O)NCCCC(=O)[O-])C=C1)O.[Na+] | InChI=1S/C11H12ClNO4.Na/c12-7-3-4-8(9(14)6-7)11(17)13-5-1-2-10(15)16;/h3-4,6,14H,1-2,5H2,(H,13,17)(H,15,16);/q;+1/p-1
